*
.SUBCKT PBSS5320T 1 2 3 
*
* housing parasitics
LBlead 11 111 3.5E-10 
LE 2 22 1.12E-09 
LC 3 33 2.3E-10 
LBbond 1 11 9E-10 
CBCG 33 111 6.2E-14 
CBEG 22 111 4.5E-14 
CCEG 22 33 6.2E-14
* 
Q1 33 111 22 PBSS5320T 
+ AREA = 1
* 
.MODEL PBSS5320T PNP 
+ IS = 9.07E-13 
+ NF = 0.9965 
+ ISE = 1.41E-14 
+ NE = 1.329 
+ BF = 412 
+ IKF = 2.8 
+ VAF = 20 
+ NR = 0.9963 
+ ISC = 2.47E-14 
+ NC = 1.168 
+ BR = 250 
+ IKR = 0.53 
+ VAR = 11 
+ RB = 12 
+ IRB = 0.001 
+ RBM = 4.6 
+ RE = 0.035 
+ RC = 0.026 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 2.793E-10 
+ VJE = 0.9448 
+ MJE = 0.4405 
+ TF = 1.15E-09 
+ XTF = 30 
+ VTF = 0.6 
+ ITF = 1.7 
+ PTF = 0 
+ CJC = 1.258E-10 
+ VJC = 0.5079 
+ MJC = 0.349 
+ XCJC = 1 
+ TR = 1.3E-08 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.78 
.ENDS
